US06528525B1
(b) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)-3-nitrophenyl]-2-phenoxypropionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 3-(4-hydroxy-3-nitrophenyl)-2-phenoxypropionate (270 mg), which is the product of Reference example 53(a), t-butyl 2-hydroxyethylcarbamate (322 mg), triphenylphosphine (535 mg) and a solution of diethylazodicarboxylate in toluene (40%, 0.93 ml) and the reaction mixture was treated to afford the desired compound (349 mg) as a colorless oil.

reactant | ethyl 3-(4-hydroxy-3-nitrophenyl)-2-phenoxypropionate | 270 mg | OC1=C(C=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)[N+](=O)[O-] | C17H17NO6
reactant | t-butyl 2-hydroxyethylcarbamate | 322 mg | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 535 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 0.93 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)-3-nitrophenyl]-2-phenoxypropionate | 349 mg | C(C)(C)(C)OC(=O)NCCOC1=C(C=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)[N+](=O)[O-] | C24H30N2O8
